US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine with 4-isopropylaniline gave N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-isopropylphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.30 (s, 1H), 10.50 (s, 1H), 8.22 (d, 1H, J=5.4 Hz). 7.37 (d, 1H, J=8.4 Hz), 7.26 (d, 1H, J=3 Hz), 7.18 (s, 1H), 7.15 (s, 1H), 7.06 (dd, 1H, J=3.3 and 8.7 Hz), 6.81 (d, 1H J=8.7 Hz), 4.23 (s, 4H), 2.85 (sept., 1H, J=7.2 Hz), 1.17 (d, 6H, J=6.9 Hz); LCMS: ret. time: 24.91 min.; purity: 95%; MS (m/e): 381 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-isopropylphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)C(C)C | C21H21FN4O2
